US05081121
2-Acetyl-4,5-dimethoxyaniline (300 mg) and 2-furoyl chloride (260 mg) were reacted in the same manner as in the preparation of compound 95 to obtain N-(2-furoyl)-2-acetyl-4,5-dimethoxyaniline (440 mg). The compound (380 mg) and potassium t-butoxide (740 mg) were reacted in the same manner as in the preparation of compound 95 to obtain 6,7-dimethoxy-2-(2-furyl)-4(1H)-quinolone (compound 94, 30 mg).

reactant | 2-Acetyl-4,5-dimethoxyaniline | 300 mg | C(C)(=O)C1=C(N)C=C(C(=C1)OC)OC | C10H13NO3
reactant | 2-furoyl chloride | 260 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N-(2-furoyl)-2-acetyl-4,5-dimethoxyaniline | 440 mg | O1C(=CC=C1)C(=O)NC1=C(C=C(C(=C1)OC)OC)C(C)=O | C15H15NO5
